US06518268B1
p-Toluenethiol (0.12 g, 1.0 mmol) was dissolved in a 10% sodium hydroxide aqueous solution (1.7 mL), and tetrabutylammonium bromide (0.016 g, 0.05 mmol) was added thereto, followed by stirring at room temperature for 5 minutes. 5-Bromo-2-fluorobenzaldehyde (0.2 g, 1.0 mmol) dissolved in toluene (1.7 mL) was added thereto by dropping, followed by stirring at room temperature for 4 hours. After the conventional treatment, and was recrystallized and purified with ethanol and hexane, to give 5-bromo-2-[(4-methylphenyl)thio]benzaldehyde (0.23 g, 74.1%).

reactant | p-Toluenethiol | 1.0 mmol, 0.12 g | C1(=CC=C(C=C1)S)C | C7H8S
reactant | 5-Bromo-2-fluorobenzaldehyde | 1.0 mmol, 0.2 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
solvent | sodium hydroxide | 1.7 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.05 mmol, 0.016 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1.7 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-[(4-methylphenyl)thio]benzaldehyde | 0.23 g, 74.1% | BrC=1C=CC(=C(C=O)C1)SC1=CC=C(C=C1)C | C14H11BrOS
